US07557127B2
To a solution of (3R)-(+)-3-(tert-butoxycarbonylamino)pyrrolidine (5.0 g) in DMF (50 ml) was added 4-fluorobenzoylchloride (3.38 ml) and N,N-diisopropylethylamine (9.35 ml), the mixture was stirred at 70° C. for 2 hours. The mixed solution was poured into a mixture of water (300 ml) and AcOEt (300 ml). The organic layer was separated, washed with water twice and brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography eluted with 5% MeOH in dichloromethane to give [1-(4-fluoro-benzyl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester (6.8 g). To a solution of [1-(4-fluoro-benzyl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester (6.8 g) in MeOH(34 ml) was treated with 4N HCl in AcOEt (29 ml) and was stirred at 25° C. for 12 hours. The solvent was removed under reduced pressure. Recrystallization (acetonitrile-MeOH) provided (3R)-1-(4-fluorobenzyl)-3-pyrrolidinamine dihydrochloride as white solid (3.77 g).

reactant | [1-(4-fluoro-benzyl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester | 6.8 g | C(C)(C)(C)OC(NC1CN(CC1)CC1=CC=C(C=C1)F)=O | C16H23FN2O2
reactant | HCl | 4N | Cl | ClH
solvent | MeOH | 34 ml | CO | CH4O
solvent | AcOEt | 29 ml | CCOC(=O)C | C4H8O2
product | (3R)-1-(4-fluorobenzyl)-3-pyrrolidinamine dihydrochloride | 3.77 g | Cl.Cl.FC1=CC=C(CN2C[C@@H](CC2)N)C=C1 | InChI=1S/C11H15FN2.2ClH/c12-10-3-1-9(2-4-10)7-14-6-5-11(13)8-14;;/h1-4,11H,5-8,13H2;2*1H/t11-;;/m1../s1
